US09314023B2
A mixture of 1-(2-methyl-3-triisopropylsilanylsulfanylphenyl)-4-methyl-1,4-dihydrotetrazole-5-one 3.63 g, cesium fluoride 2.91 g and N,N-dimethylformamide 10 ml was stirred at room temperature for thirty minutes. To the resulting mixture was added methyl iodide 2.72 g and the resulting mixture was stirred at room temperature for three hours. To the reaction mixture was added water and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated saline, and was dried over anhydrous magnesium sulfate and was then concentrated under reduced pressure. The resulting residue was subjected to a silica gel column chromatography to give 1-(2-methyl-3-methylthiophenyl)-4-methyl-1,4-dihydrotetrazole-5-one 1.65 g.

reactant | 1-(2-methyl-3-triisopropylsilanylsulfanylphenyl)-4-methyl-1,4-dihydrotetrazole-5-one | 3.63 g | CC1=C(C=CC=C1S[Si](C(C)C)(C(C)C)C(C)C)N1N=NN(C1=O)C | C18H30N4OSSi
reactant | cesium fluoride | 2.91 g | [F-].[Cs+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | methyl iodide | 2.72 g | CI | CH3I
solvent | water | O | H2O
product | 1-(2-methyl-3-methylthiophenyl)-4-methyl-1,4-dihydrotetrazole-5-one | 1.65 g | CC1=C(C=CC=C1SC)N1N=NN(C1=O)C | C10H12N4OS
